US04659798
Chloromethyltrimethoxysilane (50.0 g., 0.29 mole) and ammonia (98.6 g., 5.80 mole) were charged to a 300 ml. stainless steel pressure vessel. The mixture was heated to 100° C. at 800 psi pressure for 8 hours and then cooled. The mixture was filtered. The crude product was distilled at 60° C. and 0.2 mm Hg pressure to produce N,N-bis-(trimethoxysilylmethyl)amine. The N,N-bis-(trimethoxysilylmethyl)amine so produced (3.0 g., 0.01 mole) was found to be greater than 95% pure by gas chromatography.

reactant | Chloromethyltrimethoxysilane | 0.29 mole, 50.0 g | ClC[Si](OC)(OC)OC | C4H11ClO3Si
reactant | ammonia | 5.80 mole, 98.6 g | N | H3N
product | N,N-bis-(trimethoxysilylmethyl)amine | CO[Si](OC)(OC)CNC[Si](OC)(OC)OC | C8H23NO6Si2
